US05739328
8.4 g (0.1 mol) of cyanoguanidine and 35.5 g (0.25 mol) of ethyl trifluoroacetate are initially introduced into 46 g of ethanol, and a suspension of 8.5 g (0.125 mol) of sodium ethoxide in 39.8 g of ethanol is added in the course of 5 min. After the addition of 5.66 g (0.05 mol) of calcium chloride, the reaction mixture is heated to reflux for 7 hours. 0.5 ml of a conc. hydrochloric acid is then added at 20° C. and the ethanol is removed. 100 g of water are added and the suspension is filtered with suction. The residue is washed with 50 ml of water and dried at 50° C./20 mbar. 18.6 g (0.089 mol, 89%) of 2-amino-4-ethoxy-6-trifluoromethyl-1,3,5-triazine are obtained in the form of a colorless powder (HPLC: 99.8 area %, m.p. 124°-125° C.).

reactant | cyanoguanidine | 0.1 mol, 8.4 g | C(#N)NC(=N)N | C2H4N4
reactant | ethyl trifluoroacetate | 0.25 mol, 35.5 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium ethoxide | 0.125 mol, 8.5 g | [O-]CC.[Na+]
reactant | calcium chloride | 0.05 mol, 5.66 g | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | ethanol | 39.8 g | C(C)O | C2H6O
solvent | ethanol | 46 g | C(C)O | C2H6O
product | 2-amino-4-ethoxy-6-trifluoromethyl-1,3,5-triazine | 0.089 mol, 18.6 g, 89% | NC1=NC(=NC(=N1)OCC)C(F)(F)F | C6H7F3N4O
